US07307094B2
N-(1-Azabicyclo[2.2.2]oct-3-yl)-2-(4-methoxyphenyl)benzoxazole-4-carboxamide was prepared from 2-(4-methoxyphenyl)benzoxazole-4-carboxylic acid and 3-aminoquinuclidine dihydrochloride using the method outlined in Step C of Example 14. This compound was obtained in 5% yield as an off-white solid: mp 108-109° C.; 1H NMR (500 MHz, CD3OD) δ 8.19 (dt, J=9.7, 2.8 Hz, 2H), 8.01 (dd, J=7.7, 0.9 Hz, 1H), 7.82 (dd, J=7.7, 0.9 Hz, 1H), 7.49 (t, J=8.0 Hz, 1H), 7.14 (dt, J=9.7, 2.8 Hz, 2H), 4.25 (m, 1H), 3.91 (s, 3H), 3.47 (m, 1H), 3.02 (m, 2H), 2.91 (m, 2H), 2.77 (m, 1H), 2.12 (m, 2H), 1.80 (m, 3H); MS (ESI) m/z 378 [M+H]+

reactant | 2-(4-methoxyphenyl)benzoxazole-4-carboxylic acid | COC1=CC=C(C=C1)C=1OC=2C(N1)=C(C=CC2)C(=O)O | C15H11NO4
reactant | 3-aminoquinuclidine dihydrochloride | Cl.Cl.NC1CN2CCC1CC2
product | N-(1-Azabicyclo[2.2.2]oct-3-yl)-2-(4-methoxyphenyl)benzoxazole-4-carboxamide | 5% yield | N12CC(C(CC1)CC2)NC(=O)C=2C=CC=C1C2N=C(O1)C1=CC=C(C=C1)OC | C22H23N3O3
